US04188395
2,6-Di-(phthalimidomethyl)-4-(4'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
7.5 g of 4-nitrobenzaldehyde, 28 g of γ-phthalimidoacetoacetic acid ethyl ester and 7 ccs of concentrated ammonia in 120 ccs of ethanol are heated to the boil under reflux for 60 hours and the product is filtered off after cooling on ice.

reactant | 4-nitrobenzaldehyde | 7.5 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | γ-phthalimidoacetoacetic acid ethyl ester | 28 g | C(C)OC(CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2,6-Di-(phthalimidomethyl)-4-(4'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC)CN1C(C=2C(C1=O)=CC=CC2)=O)CN2C(C=1C(C2=O)=CC=CC1)=O | C35H28N4O10
